US09193693B2
Step 2. 3-(Diethylamino)-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(diethylamino)-2-phenylquinoxaline-6-carboxylate (117 mg, 0.35 mmol, 1.00 equiv) in methanol (15 mL). This was followed by the addition of a solution of sodium hydroxide (69.9 mg, 1.75 mmol, 5.00 equiv) in water (2 mL) dropwise with stiffing. The resulting solution was stirred overnight at 50° C. in an oil bath. The pH value of the solution was adjusted to 3-4 with 1N hydrogen chloride. The resulting mixture was concentrated under vacuum. The crude product (110 mg) was purified by Prep-HPLC with the following conditions: Column, SunFire Prep C18, 5 um, 19*150 mm; mobile phase, water with 0.05% TFA and methanol (70% methanol up to 90% in 10 min); Detector, UV 254 nm. This resulted in 70 mg (62%) of 3-(diethylamino)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(diethylamino)-2-phenylquinoxaline-6-carboxylate | 0.35 mmol, 117 mg, 1.00 equiv | C(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1)CC | C20H21N3O2
reactant | sodium hydroxide | 1.75 mmol, 69.9 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-(Diethylamino)-2-phenylquinoxaline-6-carboxylic acid | C(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1)CC | C19H19N3O2
